* Z:\home\felix\Uni\Erstes Semester\Code\FirstPass\testfiles\AC_Testfiles\scripts\AC_Dense_groß.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N004 0 AC 1
R1 N005 N004 10k
C1 0 N005 10n
R2 N006 N005 10k
C2 N006 0 10n
L1 N002 N005 10n Rser=0
R3 N003 N002 1k
C3 N003 N006 10n
R4 N003 0 100k
C4 N002 N001 100n
R5 N001 N004 1k
.ac dec 10k 1 10000k
.print ac VM(N003) VP(N003)
.end
