* Z:\home\felix\Uni\Erstes Semester\Code\FirstPass\testfiles\AC_Testfiles\scripts\AC_klein.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 AC 1
R1 N002 N001 10k
C1 0 N002 10n
R2 N003 N002 10k
C2 N003 0 10n
.ac dec 10k 1 10000k
.print ac VM(N003) VP(N003)
.end
