* Z:\home\felix\Uni\Erstes Semester\Code\Projekt 4 General Purpose Simulator V2\RVC_testbench.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N004 0 10
I1 N002 N004 500m
R1 N001 N002 10
R2 0 N001 5
R3 N005 N001 5
R4 0 N003 10
I2 0 N005 1
I3 N001 N003 100m
.op
.PRINT DC V(*)
.end
