* Z:\home\felix\Uni\Erstes Semester\Code\FirstPass\testfiles\TRAN_Testfiles\scripts\TRAN_Dense_groß.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N006 0 1
C1 N007 N006 1m
C2 N008 0 1m
L1 N009 N008 1m Rser=0
C4 N009 0 10m
R1 N008 N007 10
L2 N004 N006 1m Rser=0
L3 N005 N008 1m Rser=0
R2 N005 N004 10
C3 N005 N009 10m
C5 N002 N005 1m
C6 N003 N005 10m
R3 N003 N002 10
R4 N004 N001 10
L4 N002 N001 1m Rser=0
.tran 0 1000m 0 startup
.backanno
.end
