* Tran Analysis Testbench *
V1 N0 0 1

R1 N0 N1 1k
L1 N1 N2 1m
C1 N2 0 1u
R2 N2 N3 1k
L2 N3 N4 1m
C2 N4 0 1u
R3 N4 N5 1k
L3 N5 N6 1m
C3 N6 0 1u
R4 N6 N7 1k
L4 N7 N8 1m
C4 N8 0 1u
R5 N8 N9 1k
L5 N9 N10 1m
C5 N10 0 1u
R6 N10 N11 1k
L6 N11 N12 1m
C6 N12 0 1u
R7 N12 N13 1k
L7 N13 N14 1m
C7 N14 0 1u
R8 N14 N15 1k
L8 N15 N16 1m
C8 N16 0 1u
R9 N16 N17 1k
L9 N17 N18 1m
C9 N18 0 1u

.tran 0 0.3 0 startup
.print tran V(N18)
.end
